US06462104B1
CH3Si(OCOCH3)3;
C6H5Si(OCOCH3)3; CF3CH2CH2Si(OCOCH3)3;

reactant | C6H5Si(OCOCH3)3 | C1(=CC=CC=C1)[Si](OC(=O)C)(OC(=O)C)OC(=O)C | C12H14O6Si
reactant | CF3CH2CH2Si(OCOCH3)3 | C(F)(F)(F)CC[Si](OC(=O)C)(OC(=O)C)OC(=O)C | C9H13F3O6Si
product | CH3Si(OCOCH3)3 | C[Si](OC(=O)C)(OC(=O)C)OC(=O)C | C7H12O6Si
